US04547501
A slurry of 1.0 g. (0.004 mole) of 4-chloro-1-isopropyl-[1,2,4]triazolo[4,3-a]quinoxaline (the product of Example 6) in N,N-dimethylformamide (15 ml.) was saturated with monoethylamine gas and stirred at room temperature for 4 hours. The precipitate was separated by filtration and washed with N,N-dimethylformamide to afford 220 mg. (22% yield) of 4-ethylamino-1-isopropyl-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 209°-211° C. Mass spectrum: m/e, 255 (P).

reactant | 4-chloro-1-isopropyl-[1,2,4]triazolo[4,3-a]quinoxaline | 0.004 mole | ClC=1C=2N(C3=CC=CC=C3N1)C(=NN2)C(C)C | C12H11ClN4
reactant | monoethylamine | C(C)N | C2H7N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-ethylamino-1-isopropyl-[1,2,4]triazolo[4,3-a]quinoxaline | 22% yield | C(C)NC=1C=2N(C3=CC=CC=C3N1)C(=NN2)C(C)C | C14H17N5
